US06846892B2
HEMA monomer (with an impurity level lower than 0.8% purchased from Rohm) was mixed with triethylamine (≧99.5% pure, from Fluka) and petrol ether (bp 40-60° C.) passed through aluminum oxide and reacted with trimethyl chlorosilane (≧99.0% pure, from Fluka) to obtain trimethylsilyloxyethyl-methacrylate (TMS-HEMA). TMS-HEMA was purified by distillation from calciumhydride (once) and triethylaluminum (electronic grade, from Aldrich) (twice).

reactant | HEMA | CC(=C)C(=O)OCCO | C6H10O3
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | trimethyl chlorosilane | C[Si](Cl)(C)C | C3H9ClSi
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | trimethylsilyloxyethyl-methacrylate | quantitative yield | C[Si](OCCOC(C(=C)C)=O)(C)C | C9H18O3Si
